US06172057B2
To stirred solution of the (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester (2.5 g, 10 mmol), benzyl bromide (1.8 gm, 10 mmol) and 18-Crown-6 (500 mg) in acetone (250 ml) was added K2CO3 (10 gms, excess) and the mixture was refluxed for 24 hours. At the end, the reaction mixture was filtered and the acetone layer was concentrated. The residue obtained was extracted with chloroform, washed well with water, dried over anhydrous MgSO4, filtered and concentrated. The product obtained was purified by silica-gel column chromatography, eluting with 30% ethyl acetate: hexane. The product, 2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid ethyl ester was isolated as a low melting solid. Yield: 3.0 gm 86%; Low melting solid; MS: 349 (M+H)+.

reactant | (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester | 10 mmol, 2.5 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C11H14O5S
reactant | benzyl bromide | 10 mmol, 1.8 gm | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 18-Crown-6 | 500 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | K2CO3 | 10 gms | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H20O5S
